US07585885B2
2-(Propane-2-sulfonyl)-6-prop-2-ynylamino-isonicotinic acid methyl ester
Add THF (10 mL), 2-chloro-6-iso-propanesulfonyl-isonicotinic acid methyl ester (0.50 g, 1.80 mmol), N,N-diisopropylethylamine (0.470 mL, 2.70 mmol), and propargylamine (0.740 mL, 10.8 mmol) to a sealed vessel flushed with nitrogen. Heat and stir the reaction at 80° C. overnight. Cool to room temperature, concentrate and purify (silica gel chromatography, eluting with 20:80 to 30:70 ethyl acetate:hexanes) to give the title product (0.102 g, 19%).

reactant | 2-chloro-6-iso-propanesulfonyl-isonicotinic acid methyl ester | 1.80 mmol, 0.50 g | COC(C1=CC(=NC(=C1)S(=O)(=O)C(C)C)Cl)=O | C10H12ClNO4S
reactant | N,N-diisopropylethylamine | 2.70 mmol, 0.470 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | propargylamine | 10.8 mmol, 0.740 mL | C(C#C)N | C3H5N
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2-(Propane-2-sulfonyl)-6-prop-2-ynylamino-isonicotinic acid methyl ester | 0.102 g, 19% | COC(C1=CC(=NC(=C1)NCC#C)S(=O)(=O)C(C)C)=O | C13H16N2O4S
